US06828446B2
N-(2-{[(6-chloro-1,3-benzodioxol-5-yl)methyl]thio}phenyl)acetamide
2-aminothiophenol (0.4 mmol) and PS-DIEA resin (0.35 g, 3.76 mmol/g) were combined in dichloromethane (4 mL) and agitated for 10 min. 5-chloro-6-(chloromethyl)-1,3-benzodioxole (0.3 mmol) was added and the reaction agitated for a further 3 h. Reaction was treated with MP BH4− resin (Argonaut 3.16 mmol/g) for 2 h then filtered. The filtrate was combined with triethylamine (0.4 mmol), PS-DMAP resin (0.1 g) and acetyl chloride (0.4 mmol). Agitate for 18 h then treat the reaction with PS-trisamine resin for 4 h, filter and remove the solvent under a stream of nitrogen. The residue was purified by reverse phase chromatography. 1H NMR (CDCl3) δ 8.38-8.32 (m, 2 H), 7.52 (m, 1 H), 7.38-7.32 (m, 1 H), 7.07-7.02 (m, 1 H), 6.83 (s, 1 H), 6.25 (s, 1 H), 5.93 (s, 2 H), 3.90 (s, 2 H), 2.09 (s, 3 H);MS (ESI+) for C16H14ClNO3S m/z 336 (M+H)+.

reactant | 2-aminothiophenol | 0.4 mmol | NC1=C(C=CC=C1)S | C6H7NS
reactant | DIEA | 0.35 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-chloro-6-(chloromethyl)-1,3-benzodioxole | 0.3 mmol | ClC1=CC2=C(OCO2)C=C1CCl | C8H6Cl2O2
reactant | triethylamine | 0.4 mmol | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.4 mmol | C(C)(=O)Cl | C2H3ClO
reactant | trisamine | C(C(CO)(CO)N)O | C4H11NO3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
catalyst | DMAP | 0.1 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(2-{[(6-chloro-1,3-benzodioxol-5-yl)methyl]thio}phenyl)acetamide | ClC=1C(=CC2=C(OCO2)C1)CSC1=C(C=CC=C1)NC(C)=O | C16H14ClNO3S
